US07893074B2
To a solution of 4-bromo-1-methyl-2-nitrobenzene (225 mg, 1.04 mmol), morpholine (125 μL, 1.25 mmol), and cesium carbonate (474.4 mg, 1.46 mmol) in toluene, palladium diacetate (31.2 mg, 0.139 mmol) and 2-(di-t-butylphosphino)biphenyl (125 mg, 0.403 mmol) are added and stirred at 100° C. for 5 hours. After cooling, the mixture is filtered to remove insoluble material. The filtrate is poured into water and extracted with ethyl acetate twice. The organic layer is washed with water and then brine, dried over magnesium sulfate, and evaporated in vacuo. The residue is purified with silica gel column chromatography (n-hexane:ethyl acetate=5:1) to afford 4-(4-methyl-3-nitrophenyl)-morpholine as a yellow solid.

reactant | 4-bromo-1-methyl-2-nitrobenzene | 1.04 mmol, 225 mg | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | morpholine | 1.25 mmol, 125 μL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 1.46 mmol, 474.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(di-t-butylphosphino)biphenyl | 0.403 mmol, 125 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium diacetate | 0.139 mmol, 31.2 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 4-(4-methyl-3-nitrophenyl)-morpholine | CC1=C(C=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C11H14N2O3
